US04528368
Preparation of 2-amino-5-cyanomethyl-1,3,4-thiadiazole
A mixture of 2-amino-5-mercapto-1,3,4-thiadiazole (66.5 g, 0.50 mol.), and ethanol (500 ml) is heated to reflux and chloroacetonitrile (41.1 g, 0.55 mol.) is added dropwise at reflux. Heating is continued for four hours and then about 400 ml of distillate is removed using a Dean-Stark trap. The clear solution is cooled to about 75° C. and water (150 ml) is added, allowing the temperature to drop to about 50° C. After adjusting the pH to about seven by adding slowly a solution of Na2CO3, the mixture is cooled to room temperature and the gray product is collected by filtration and washed with water. The moist filter cake is recrystallized from 300 ml of ethanol to yield the desired product which melts at 163°-164° C.

reactant | 2-amino-5-mercapto-1,3,4-thiadiazole | 0.50 mol, 66.5 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | chloroacetonitrile | 0.55 mol, 41.1 g | ClCC#N | C2H2ClN
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-amino-5-cyanomethyl-1,3,4-thiadiazole | NC=1SC(=NN1)CC#N | C4H4N4S
